US07829585B2
6-Hydroxy-1H-indole-2-carboxylic acid methyl ester
To a dichloromethane (10 mL) solution of 6-methoxy-1H-indole-2-carboxylic acid methyl ester (500 mg, 2.44 mmol) was added boron tribromide (12.2 mL, 12.2 mmol) at −78° C., which was stirred for 50 minutes at 0° C. under nitrogen atmosphere. To the reaction solution was added water at 0° C. followed by extraction with ethyl acetate. The organic layer was washed with sat. NaCl followed by drying over anhydrous magnesium sulfate and filtering. The filtrate was concentrated under a reduced pressure and the residue was purified by silica gel column chromatography (heptane:ethyl acetate=1:1) to obtain the title compound (395 mg, 85%) as a white solid.

reactant | dichloromethane | 10 mL | ClCCl | CH2Cl2
reactant | 6-methoxy-1H-indole-2-carboxylic acid methyl ester | 2.44 mmol, 500 mg | COC(=O)C=1NC2=CC(=CC=C2C1)OC | C11H11NO3
reactant | boron tribromide | 12.2 mmol, 12.2 mL | B(Br)(Br)Br | BBr3
solvent | water | O | H2O
product | 6-Hydroxy-1H-indole-2-carboxylic acid methyl ester | 395 mg, 85% | COC(=O)C=1NC2=CC(=CC=C2C1)O | C10H9NO3
